* source DESIGN OF REGULATED POWER SUPPLY
D_D1         N00169 N00155 D1N4002 
D_D3         0 N00169 D1N4002 
D_D2         N00179 N00155 D1N4002 
D_D4         0 N00179 D1N4002 
D_D5         0 N00299 D1N750 
C_C1         0 N00299  470u  TC=0,0 
R_R1         N00155 N00299  330 TC=0,0 
R_R2         0 N00299  1k TC=0,0 
V_V1         N00169 N00179  AC 0
+SIN 0 30 50 0 0 0
