* source FULL ADDER
U_A         STIM(1,1) $G_DPWR $G_DGND N00352 IO_STM IO_LEVEL=0 
+ 0 0
+ +4ms 1
+REPEAT FOREVER
+ +4ms 0
+  +4ms 1
+ ENDREPEAT
U_B         STIM(1,1) $G_DPWR $G_DGND N00356 IO_STM IO_LEVEL=0 
+ 0 0
+ +2ms 1
+REPEAT FOREVER
+ +2ms 0
+  +2ms 1
+ ENDREPEAT
U_C         STIM(1,1) $G_DPWR $G_DGND N00377 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
X_XOR1A         N00352 N00356 N01334 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_XOR2A         N01334 N00377 N00389 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_AND1A         N01334 N00377 N01878 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_AND2A         N00352 N00356 N01894 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_OR1A         N01878 N01894 N02043 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
