* source HALF ADDER
U_A         STIM(1,1) $G_DPWR $G_DGND N00252 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5mS 1
+REPEAT FOREVER
+ +.5mS 0
+  +.5mS 1
+ ENDREPEAT
U_B         STIM(1,1) $G_DPWR $G_DGND N00288 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
X_U1A         N00252 N00288 N00345 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00252 N00288 N00349 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
