* source HALF AND FULL WAY RECTIFIER
D_D4         N01591 0 D1N4002 
D_D3         N01591 N01587 D1N4002 
D_D1         N01587 N01563 D1N4002 
D_D2         0 N01563 D1N4002 
R_R2         N01591 N01563  1k TC=0,0 
V_V1         N01587 0  AC 0
+SIN 0 10 50 0 0 0
V_V2         N02316 0  AC <AC>
+SIN 0 10 50 0 0 0
D_D5         N02316 N02323 D1N4002 
R_R3         0 N02323  1k TC=0,0 
