* source STEADY STATE AC ANALYSIS
C_C1         N00375 0  0.000047  TC=0,0 
V_V1         N00367 0 DC 20Vdc AC 1Vac 
R_R1         N00367 N00375  200 TC=0,0 
V_V2         N00539 0 DC 20Vdc AC 1Vac 
R_R2         N00539 N00563  200 TC=0,0 
L_L1         N00563 0  0.047  
V_V3         N00856 0 DC 20Vdc AC 1Vac 
C_C3         N01032 0  0.000047  TC=0,0 
R_R3         N00856 N00880  200 TC=0,0 
L_L3         N00880 N01032  0.047  
