* source THEVENIN AND MAXIMUM POWER TRANSFER
R_R2         N00129 N00136  3 TC=0,0 
R_R1         N00150 N00129  4 TC=0,0 
R_R3         N00143 N00136  5 TC=0,0 
R_R4         N00150 N00143  1k TC=0,0 
V_V1         N00182 0 16Vdc
R_R5         N00182 N00150  1k TC=0,0 
R_R6         N00309 N00150  6 TC=0,0 
V_V2         N00309 0 24Vdc
V_V3         N00471 0 18Vdc
R_R7         N00471 N00143  2 TC=0,0 
I_I1         N00129 N00136 DC 4Adc  
