* source ZENER VOLTAGE REGULATION
V_V1         N00108 0 15Vdc
R_R1         N00108 N00115  330 TC=0,0 
D_D1         0 N00115 D1N750 
R_R2         0 N00115 {6000*0.5+.001}
